US09029536B2
A) Ethyl (2-chloro-1H-benzimidazol-1-yl)acetate
To a solution of 2-chloro-1H-benzo[d]imidazole (10 g) and NaH (60% in oil, 3.15 g) in DMF (150 mL) was added ethyl bromoacetate (11.0 mL) at 0° C. After stirring overnight at room temperature, the reaction mixture was quenched with water and extracted with AcOEt. The extract was washed with water and brine, dried over MgSO4, and concentrated under reduced pressure. The precipitate was crystallized from AcOEt/hexane to give the title compound (12 g).

reactant | 2-chloro-1H-benzo[d]imidazole | 10 g | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | NaH | 3.15 g | [H-].[Na+]
reactant | ethyl bromoacetate | 11.0 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | Ethyl (2-chloro-1H-benzimidazol-1-yl)acetate | 12 g | ClC1=NC2=C(N1CC(=O)OCC)C=CC=C2 | C11H11ClN2O2
